US05677434
Sulfanilic acid (52 g, 0.3 mol) was dissolved in 200 ml H2O containing 16.5 g Na2CO3. The resulting solution was cooled to 10° C. and 35 g of conc. H2SO4 was then added dropwise, followed by the addition of 75 ml 4N NaNO2. The diazotization step was carried out for 15 min at 10°-12° C., then the diazonium salt was collected by filtration, washed with a small amount of cold water and added, at 5° C., to a stirred solution of 85 g of Na2 SO3 in 250 ml H2O. After stirring the reaction mixture for 1 h, the temperature was raised to 95° C. and 240 ml of concentrated H2SO4 was added over a period of 30 min. The reaction mixture was left overnight and the precipitated product was collected, washed with cold water and dried. The phenylhydrazine-4-sulfonic acid obtained (52 g) was dissolved in 500 ml H2O containing 60 ml 30% NaOH, and 30 g (0.28 mol) of benzaldehyde was added at 50°-55° C. Stirring was continued for 1 h, the temperature was reduced to 30° C., and the product was precipitated by acidification with 36 ml 30% HCl. The product was collected, washed with a small amount of cold water and dried, to give 50 g of benzaldehyde phenylhydrazone-4-sulfonic acid.

reactant | Sulfanilic acid | 0.3 mol, 52 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | H2SO4 | 35 g | OS(=O)(=O)O | H2O4S
reactant | NaNO2 | 4N, 75 ml | N(=O)[O-].[Na+]
solvent | H2O | 200 ml, 16.5 g | O | H2O
product | phenylhydrazine-4-sulfonic acid | C1=CC(=CC=C1NN)S(=O)(=O)O | C6H8N2O3S
